US05055458
A solution of 9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-phthalimidopurine (550 mg, 0.87 mmol) in dichloromethane (10 ml) was treated with methylhydrazine (0.05 ml, 0.96 mmol) and stirred for 30 min at 20° C. The reaction mixture was filtered, the solvent evaporated in vacuo and the residue chromatographed on silica, eluting with chloroform-methanol 40:1, affording 9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)-but-2-oxy]adenine (380mg, 87%) as a clear oil. νmax (film) 3340, 3200, 1730, 1650, 1600 and 1470 cm-1, δH (CDCl3) 0.04 (6H, s, CH3SiCH3), 0.87 (9H, s, (CH3)3CSi), 1.33 (6H, t, J7.1 Hz, 2×CH3CH2), 2.08 (2H, m, SiOCH2CHCH2), 3.80-3.90 (4H, m, CH2OSi+CH2P), 3.99 (2H, m, CH2OCH2P), 4.16 (4H, m, 2×CH3CH2), 4.61 (1H, m, CHON), 5.68 (2H, br.s, D2O exchangeable, NH2), 8.04 (1H, s, H- 2/H-8), 8.34 (1H, s, H-2/H-8); m/z (FAB+ve Ion), 526 (MNa+), 504 (MH+); Found: C, 47.35; H, 7.68; N, 13.67% C20H38N5O6PSi requires C, 47.50; H, 7.60; N, 13.91%.

reactant | 9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-phthalimidopurine | 0.87 mmol, 550 mg | [Si](C)(C)(C(C)(C)C)OCC(CCOCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C28H40N5O8PSi
reactant | methylhydrazine | 0.96 mmol, 0.05 ml | CNN | CH6N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)-but-2-oxy]adenine | 380mg, 87% | [Si](C)(C)(C(C)(C)C)OCC(CCOCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)N | C20H38N5O6PSi
